US04004911
4-Benzyloxymethyl-2,4-dimethyl-1,3-dioxolane
3-Benzyloxy-2-methylpropane-1,2-diol (5.0g), 1,1-diethoxyethane (3.0g) and p-toluenesulphonic acid were heated at 110°-115° C with stirring until no more alcohol was evolved. The mixture was then heated at 140°-145° C for 15 minutes. After cooling, the mixture was dissolved in ether and the resulting solution was then washed with 5% potassium carbonate solution followed by water. The solution was dried over anhydrous magnesium sulphate and the solvent was removed under reduced pressure to yield a liquid which on distillation gave the desired product having a b.p. 81°-82° C at 0.3 mm Hg.

reactant | 3-Benzyloxy-2-methylpropane-1,2-diol | 5.0g | C(C1=CC=CC=C1)OCC(CO)(O)C | C11H16O3
reactant | 1,1-diethoxyethane | 3.0g | C(C)OC(C)OCC | C6H14O2
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ether | CCOCC | C4H10O
product | 4-Benzyloxymethyl-2,4-dimethyl-1,3-dioxolane | C(C1=CC=CC=C1)OCC1(OC(OC1)C)C | C13H18O3
